US07884234B2
(1) Preparation of 1-nitro-4-[4-(trifluoromethoxy)phenoxy]benzene
A mixture of 4-(trifluoromethoxy)phenol (2.50 g, 14.036 mmol), 4-fluoro-1-nitrobenzene (1.98 g, 14.036 mmol), potassium carbonate (2.90 g, 20.982 mmol) and N,N-dimethylacetamide (15 ml) was stirred at 160° for 2 hours under argon atmosphere. The reaction mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=10:1) to give the title compound (4.18 g, 100%) as a pale yellow solid.

reactant | 4-(trifluoromethoxy)phenol | 14.036 mmol, 2.50 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | 4-fluoro-1-nitrobenzene | 14.036 mmol, 1.98 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 20.982 mmol, 2.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 1-nitro-4-[4-(trifluoromethoxy)phenoxy]benzene | 4.18 g, 100% | [N+](=O)([O-])C1=CC=C(C=C1)OC1=CC=C(C=C1)OC(F)(F)F | C13H8F3NO4
